US05292747
A mixture of 1.21 g of 1,1,1,3,3,3-hexamethyldisilazane and 132 mg of methanol was added to a solution of 400 mg of trans-3-(2,3,3a,4,11,11a-hexahydro-2-methyl-1H-pyrrolo[3',4':4,5]-pyrido[1,2-a]indol-10-yl)-4-(1-methyl-3-indolyl)furan-2,5-dione hydrochloride in 30 ml of DMF and stirred for 48 hours. A further 100 mg of methanol and 0.95 g of 1,1,1,3,3,3-hexamethyldisilazane were added, the mixture was heated to 45° C. for 2 hours and then left to stand at room temperature. The solvent was removed under reduced pressure and the residue was dissolved in ethyl acetate, dichloromethane and methanol. The solution obtained was washed with saturated sodium bicarbonate solution and the organic layer was concentrated. A saturated solution of hydrogen chloride in ethyl acetate was added and the precipitate obtained was filtered off. The solid was suspended in water and stirred, then filtered off and dried. The solid obtained was suspended in ethyl acetate and stirred, then filtered off and dried to give 235 mg of trans-3-(2,3,3a,4,11,11a-hexahydro-2-methyl-1H-pyrrolo[3',4':4,5]pyrido[1,2-a]indol-10-yl)-4 -(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione hydrochloride of melting point >330° C.

reactant | 1,1,1,3,3,3-hexamethyldisilazane | 1.21 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | methanol | 132 mg | CO | CH4O
reactant | trans-3-(2,3,3a,4,11,11a-hexahydro-2-methyl-1H-pyrrolo[3',4':4,5]-pyrido[1,2-a]indol-10-yl)-4-(1-methyl-3-indolyl)furan-2,5-dione hydrochloride | 400 mg | Cl.CN1C[C@H]2CC=3N(C=4C=CC=CC4C3C=3C(OC(C3C3=CN(C4=CC=CC=C34)C)=O)=O)C[C@@H]2C1
reactant | methanol | 100 mg | CO | CH4O
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 0.95 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | trans-3-(2,3,3a,4,11,11a-hexahydro-2-methyl-1H-pyrrolo[3',4':4,5]pyrido[1,2-a]indol-10-yl)-4 -(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione hydrochloride | 235 mg | Cl.CN1C[C@H]2CC=3N(C=4C=CC=CC4C3C=3C(NC(C3C3=CN(C4=CC=CC=C34)C)=O)=O)C[C@@H]2C1 | InChI=1S/C28H26N4O2.ClH/c1-30-12-16-11-23-24(19-8-4-6-10-22(19)32(23)14-17(16)13-30)26-25(27(33)29-28(26)34)20-15-31(2)21-9-5-3-7-18(20)21;/h3-10,15-17H,11-14H2,1-2H3,(H,29,33,34);1H/t16-,17+;/m1./s1
